US08383629B2
To a solution of 1′-(tert-butoxycarbonyl)-2-oxospiro[indoline-3,4′-piperidine]-5-carboxylic acid (2 g, 6.0 mmol) in methanol (30 mL) was added dropwise SOCl2 (5 mL) at 0° C. Then the reaction mixture was stirred overnight at rt. The reaction mixture was concentrated to give methyl 2-oxospiro[indoline-3,4′-piperidine]-5-carboxylate hydrochloride (1.4 g, 81%), which was used for the next step without purification. 1H NMR (CD3OD): 2.00 (m, 2H), 2.20 (m, 2H), 3.281 (m, 1H), 3.39 (m, 2H), 3.61 (m, 2H), 3.85 (m, 2H), 3.88 (m, 2H), 7.00 (m, 1H), 7.98 (m, 2H).

reactant | 1′-(tert-butoxycarbonyl)-2-oxospiro[indoline-3,4′-piperidine]-5-carboxylic acid | 6.0 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCC2(CC1)C(NC1=CC=C(C=C12)C(=O)O)=O | C18H22N2O5
reactant | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
reactant | methanol | 30 mL | CO | CH4O
product | methyl 2-oxospiro[indoline-3,4′-piperidine]-5-carboxylate hydrochloride | 1.4 g, 81% | Cl.O=C1NC2=CC=C(C=C2C12CCNCC2)C(=O)OC | InChI=1S/C14H16N2O3.ClH/c1-19-12(17)9-2-3-11-10(8-9)14(13(18)16-11)4-6-15-7-5-14;/h2-3,8,15H,4-7H2,1H3,(H,16,18);1H
